Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish / Iodine / seasonal allergy / Dilaudid / novocaine
 
Attending: ___.
 
Chief Complaint:
chemo
 
Major Surgical or Invasive Procedure:
port placement

 
History of Present Illness:
Ms. ___ is a ___ female with a history of
marginal zone lymphoma in ___ with subsequent diagnosis of
aggressive B cell lymphoma in ___.  She is s/p ISRT to her
palate in ___ and surgical resection of left supraclavicular
lymph node in ___ for marginal zone lymphoma.  She was found to
have right leg edema with large mass in ___, and the biopsy
confirmed mantle cell lymphoma, blastic variant.  She is s/p
R-CHOP x 6 cycles in ___ and autologous transplant in ___. 
PET/CT on ___ showed a new enlarged right inguinal lymph 
node
with FDG avidity compatible concerning for relapse.  Core biopsy
of right inguinal lymph node on ___ was consistent with NHL;
intermediate grade non-Hodgkin B-cell lymphoma. She appeared to
have a single site of disease and it was reasonable to attempt
radiation salvage as her systemic options were limited. This was
completed on ___. Restaging in ___ consistent with 
new
PET avid periaortic node; bx consistent with relapsed aggressive
B cell lymphoma. Patient presents for the second cycle of
___.

First cycle complicated by prolonged nausea, constipation and
fatigue. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:  
(1) HTN.  
(2) Hyperlipidemia.  
(3) ___ esophagus  
(4) Partial thyroidectomy for multinodular hyperplasia.  
(5) Colonic hyperplastic polyps.  
(6) Meniere's disease.  
(7) Degenerative disease of the lumbar spine.  
(8) Heterozygous for FXI deficiency by report
(9) Atrial fibrillation, on oral anticoagulation with warfarin.  

(10) Lymphoma, as below 

DETAILED ONCOLOGIC HISTORY: 
History of extranodal marginal zone lymphoma of the palate 
managed with excision and radiation in ___. Nodal recurrence of 
mardinal zone lymphoma ___ that was excised. ___ patient was noted to have right lower extremity edema and 
right inguinal LAD. Excisional biopsy consistent with an 
aggressive B cell lymphoma, blastoid mantle cell.  
R-CHOP x 6 cycles in ___ and autologous transplant in ___.  
PET/CT on ___ showed a new enlarged right inguinal lymph 
node with FDG avidity compatible concerning for relapse.  Core 
biopsy of right inguinal lymph node on ___ was consistent 
with NHL; intermediate grade non-Hodgkin B-cell lymphoma. She 
appeared to have a single site of disease and it was reasonable 
to attempt radiation salvage as her systemic options were 
limited. This was completed on ___. Restaging in ___ 
consistent with new PET avid periaortic node; bx consistent with 
relapsed aggresive B cell lymphoma.
C1 R-BAC ___ 

 
Social History:
___
Family History:
Her father apparently had homozygous FXI deficiency, which 
prompted testing in her (performed elsewhere). A niece was  
diagnosed with a "bad type of lymphoma."  

 
Physical Exam:
VS: T 98.8 max, now 98.3 BP 126/70 HR 62 RR 18 O2 100%
Gen: WDWN NAD A&O x4
HEENT: oropharynx moist, no lesions
nodes: no LAD
CV: RRR no m/r/g, not irregular
LS: CTA
Abd: soft NT -HSM +BS, no masses palpated
Extr: no edema
Skin: no rash
Neuro: nonfocal, PERRLA, EOMI, no nystagmus, rapid hand 
movements
and truncal gait appropriate, unsteady at baseline on tandem 
gait
Access: POC with ecchymosis, ozzing resolved

 
Pertinent Results:
___ 12:11AM BLOOD WBC-2.6* RBC-2.26* Hgb-7.5* Hct-21.5* 
MCV-95 MCH-33.3* MCHC-35.0 RDW-19.2* Plt ___
___ 09:05AM BLOOD WBC-4.1 RBC-2.88* Hgb-9.0* Hct-27.3* 
MCV-95 MCH-31.3 MCHC-33.0 RDW-18.2* Plt ___
___ 12:11AM BLOOD Neuts-91.9* Lymphs-1.5* Monos-0.9* 
Eos-5.5* Baso-0.2
___ 09:05AM BLOOD Neuts-84* Bands-0 Lymphs-3* Monos-12* 
Eos-0 Baso-1 ___ Myelos-0 NRBC-1*
___ 12:11AM BLOOD Glucose-95 UreaN-16 Creat-0.7 Na-139 
K-3.0* Cl-104 HCO3-27 AnGap-11
___ 09:05AM BLOOD Glucose-103* UreaN-10 Creat-0.6 Na-140 
K-3.9 Cl-105 HCO3-25 AnGap-14
___ 12:11AM BLOOD Albumin-3.3* Calcium-7.7* Phos-4.7* 
Mg-1.8
___ 09:05AM BLOOD Albumin-4.0 Calcium-9.3 Phos-4.6* Mg-1.7 
UricAcd-5.9*
 
Brief Hospital Course:
___ year old female with multiply relapsed NHL
admitted for cycle 2 of R-bendamustine cytarabine.

# Lymphoma: -Rituxan 700mg IV (375mg/m2) D1
           -Cytarabine 1540 IV (800mg/m2) D2-4
           -Bendamustine 125mg IV (70mg/m2) D2-3
           -Pred drops up until 48hrs after cytarabine completes
          - IVF/antiemetics per protocol
          - Neuro exams assessed prior to each dose of ara-c

#Dyspnea: Resolved. may be combination of reactive airway flare 
vs fluid
overload vs URI. CXR shows some fluid, no signs of active
infection. strict I/Os, diurese prn. resp swab PND.

#Fever: non neutropenic, may be secondary to chemo vs URI. will
send resp swab. b and u culture NTD, (u culture contaminate). 
tylenol prn for relief.
- fever resolved after 1 day

# Nausea: supportive meds with dex, zofran pre chemo. add emend
po D2-4. give script at d/c for zyprexa to prevent delayed n/v
from last cycle. remind her to continue bowel regimen at d/c.

# Prophylaxis: acyclovir. consider bactrim if will not be on
coumadin.

# Osteoarthritis: tramadol prn. tylenol prn for breakthrough.
does not tolerate oxycodone-nausea. ___ evaluate, lifeline at 
home and stable on feet. okay for safe discharge home.

# Paroxysmal a fib: EKG overnight with fever on ___, rate 
stable in
70's, 80's. converted back with HR in 60's prior to discharge. 
continue ___ go home with xarelto per primary 
oncologist.

# HTN: continue amlodipine with parameters

# GERD: omeprazole daily

# Hypothyroidism: continue synthroid daily

# Hypercholestermia: hold during chemotherapy

# DVT prophylaxis: restarted Lovenox after port placement, will 
go home with xarelto
# F/E/N: replace electrolytes prn. IVF as ordered.
# Access: POC
# code status Full
# dispo: home, neulasta in clinic ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Acyclovir 400 mg PO Q8H 
3. Amlodipine 2.5 mg PO DAILY 
4. Fexofenadine 180 mg PO DAILY 
5. Fluticasone Propionate NASAL ___ SPRY NU DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Gabapentin 300 mg PO HS 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Sotalol 160 mg PO BID 
12. Warfarin 2.5-5 mg PO ASDIR 
13. Docusate Sodium 100 mg PO BID 
14. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety insomnia nausea 
15. Polyethylene Glycol 17 g PO DAILY:PRN no bm in 24h 
16. PrednisoLONE Acetate 1% Ophth. Susp. 2 DROP BOTH EYES QID 
17. Senna 8.6 mg PO BID 
18. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
19. Atorvastatin 20 mg PO QPM 
20. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral BID 
21. Multivitamins 1 TAB PO DAILY 
22. Vitamin D ___ UNIT PO DAILY 
23. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Acyclovir 400 mg PO Q8H 
3. Docusate Sodium 100 mg PO BID 
4. Fexofenadine 180 mg PO DAILY 
5. Fluticasone Propionate NASAL ___ SPRY NU DAILY 
6. Gabapentin 300 mg PO HS 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Lorazepam 0.5-1 mg PO Q4H:PRN anxiety insomnia nausea 
9. Omeprazole 20 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN no bm in 24h 
11. PrednisoLONE Acetate 1% Ophth. Susp. 2 DROP BOTH EYES QID 
12. Prochlorperazine 10 mg PO Q6H:PRN nausea 
13. Senna 8.6 mg PO BID 
14. Sotalol 160 mg PO BID 
15. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
16. Vitamin D ___ UNIT PO DAILY 
17. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral BID 
18. FoLIC Acid 1 mg PO DAILY 
19. Multivitamins 1 TAB PO DAILY 
20. Ondansetron 8 mg PO Q8H:PRN nausea 
21. Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2
22. OLANZapine 5 mg PO HS 
RX *olanzapine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
23. Allopurinol ___ mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lymphoma
reactive airway disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to receive chemotherapy. You tolerated this 
well however developed worsening shortness of breath and cough 
overnight on ___. We did a workup which was most consistent 
with your history of asthma flare with an upper respiratory 
infection and fluid overload. Your symptoms improved with 
nebulizer treatment and lasix.

You will follow up tomorrow in clinic to receive your neulasta 
injection and to follow up with your outpatient team. Please do 
not hesitate to call in the meantime with any fevers, chills, 
worsening cough, shortness of breath, or any other concerns.
 
Followup Instructions:
___